* Given example

* Voltage Sources
V1 5 0 1.3e-2
V_source2 3 2 0.2
Vsource_1 7 6 2

* Current Sources
* I1 4 8 1e-3
* I2 0 6 1e-3

* * Resistors
* R1 1 5 1.5
* R2 1 2 1
* R3 5 2 50
* R4 5 6 0.1
* R5 2 6 1.5
* R6 3 4 0.1
* R7 8 0 1e3
* R8 4 0 10